US06207845B1
The crude isoamyl glycidyl ether (140 g), water (140 g; 7.78 mol), lauric acid (7.64 g; 0.038 mol) and potassium hydroxide (2.14 g; 0.038 mol) were placed in a 2-l autoclave, and the mixture was heated up to 157° C. while stirring it. The mixture was stirred for 5 hours as it was, and was then allowed to cool down to room temperature. The mixture was extracted with ethyl acetate (500 ml), and the extract was washed twice with water (300 ml). The solvent was then distilled off to obtain 157 g of crude monoisoamyl glyceryl ether. This crude product was purified by vacuum distillation (2 mmHg, 114-115° C.) to obtain 103 g of monoisoamyl glyceryl ether as a colorless transparent oil (total yield: 71%). Quenching of a proton signal (methylene in an epoxy ring) at δ=2.60, 2.80 was observed by 1H-NMR (200 MHz), thereby identifying the compound. The purity of the compound was found to be at least 99% by GLC.

reactant | isoamyl glycidyl ether | 140 g | C(C1CO1)OCCC(C)C | C8H16O2
reactant | water | 7.78 mol, 140 g | O | H2O
catalyst | lauric acid | 0.038 mol, 7.64 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
catalyst | potassium hydroxide | 0.038 mol, 2.14 g | [OH-].[K+]
product | monoisoamyl glyceryl ether | 157 g | C(C(O)CO)OCCC(C)C | C8H18O3
